US07459562B2
Prepared in a manner similar to that which is described in Step A of Example 91. 4-(3-Fluoro-4-pivalamidophenoxy)picolinamide (110 mg, 0.33 mmol) in acetonitrile (4 mL) was converted to N-(4-(2-aminopyridin-4-yloxy)-2-fluorophenyl)pivalamide (70 mg, 70% yield). MS(ESI+): m/z 304.21 (M+H)+.

reactant | 4-(3-Fluoro-4-pivalamidophenoxy)picolinamide | 0.33 mmol, 110 mg | FC=1C=C(OC2=CC(=NC=C2)C(=O)N)C=CC1NC(C(C)(C)C)=O | C17H18FN3O3
reactant | acetonitrile | 4 mL | C(C)#N | C2H3N
product | N-(4-(2-aminopyridin-4-yloxy)-2-fluorophenyl)pivalamide | 70 mg, 70% yield | NC1=NC=CC(=C1)OC1=CC(=C(C=C1)NC(C(C)(C)C)=O)F | C16H18FN3O2
